US07544690B2
A solution of 4-bromo-2-trifluoromethoxy-benzaldehyde (550 mg, 2.04 mmol) in 1,4-dioxane (27 mL) and H2O (9 mL) was cooled at 4° C. To the solution were added amidosulfuric acid (296 mg, 3.05 mmol) and sodium dihydrogen phosphate dihydrate (1.4 g, 8.98 mmol). The mixture was stirred at 4° C. for 15 min. To the reaction mixture was added a solution of sodium chlorite (238 mg, 2.63 mmol) in H2O (1.5 mL) and stirred at 4° C. for 15 min. To the reaction mixture was added Na2CO3 (304 mg, 2.41 mmol) and stirred at 4° C. for 15 min. The mixture was acidified with conc-HCl (pH=1), and the aqueous layer was extracted with CHCl3 (three times). The combined organic layer was dried over MgSO4, filtered, concentrated, and purified by flash chromatography (silica gel, 1% MeOH in CHCl3) to give 4-bromo-2-trifluoromethoxy-benzoic acid (471 mg, 81%) as a white solid.

reactant | 4-bromo-2-trifluoromethoxy-benzaldehyde | 2.04 mmol, 550 mg | BrC1=CC(=C(C=O)C=C1)OC(F)(F)F | C8H4BrF3O2
reactant | amidosulfuric acid | 3.05 mmol, 296 mg | S(O)(=O)(=O)N | H3NO3S
reactant | sodium dihydrogen phosphate dihydrate | 8.98 mmol, 1.4 g | O.O.P(=O)(O)(O)[O-].[Na+]
reactant | sodium chlorite | 2.63 mmol, 238 mg | Cl(=O)[O-].[Na+]
reactant | Na2CO3 | 2.41 mmol, 304 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | pH=1 | Cl | ClH
solvent | 1,4-dioxane | 27 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 9 mL | O | H2O
solvent | H2O | 1.5 mL | O | H2O
product | 4-bromo-2-trifluoromethoxy-benzoic acid | 471 mg, 81% | BrC1=CC(=C(C(=O)O)C=C1)OC(F)(F)F | C8H4BrF3O3
